US05631373
7-Chloro-3,4-dihydro-6-methylquinoxaline-2(1H)-one.
A solution of N-(4'-chloro-5'-methyl-2'-nitrophenyl)glycine sodium salt (0.300 g, 1.23 mmol, as prepared above) and tin (II) chloride dihydrate (0.830 g, 3.68 mmol, Aldrich, used as received) in ethanol (4.0 mL) was refluxed for 30 min. It was then cooled to room temperature and the precipitated solid was filtered, washed with ethanol (1.0 mL) and dried under vacuum to yield 0.160 g (66%) of the title compound as a yellow powder; 1H NMR (DMSO-d6): δ2.099 (s, 3H), 3.655 (s, 2H), 6.037 (s, 1H), 6.538 (s, 1H), 6.685 (s, 1H), 10.241 (s, 1H).

reactant | N-(4'-chloro-5'-methyl-2'-nitrophenyl)glycine sodium salt | 1.23 mmol, 0.300 g | [Na+].ClC1=CC(=C(C=C1C)NCC(=O)[O-])[N+](=O)[O-]
reactant | tin (II) chloride dihydrate | 3.68 mmol, 0.830 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
product | 7-Chloro-3,4-dihydro-6-methylquinoxaline-2(1H)-one | 0.160 g, 66% | ClC1=C(C=C2NCC(NC2=C1)=O)C | C9H9ClN2O
